US05807859
A suspension of 550 mg of (10 RS)-10-acetamido-10-(3-phenylpropyl)-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one in 30 ml of 4N hydrochloric acid is refluxed for 2 hours. The reaction medium is cooled and filtered on a sinter funnel. The solid obtained is recrystallized from 40 ml of ethanol. 130 mg of (10 RS)-10-amino-10-(3-phenylpropyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride are obtained in the form of a grey solid melting above 260° C. (Analysis, % calculated C: 67.3, H: 5.4, Cl: 9.0, N: 14.3, O: 4.1; % found C: 67.1, H: 5.3, Cl: 9.0, N: 14.1, O: 4.1).

reactant | (10 RS)-10-acetamido-10-(3-phenylpropyl)-5H,10H-imidazo[1,2-a]-indeno[1,2-e]pyrazin-4-one | 550 mg | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCC3=CC=CC=C3 | C24H22N4O2
reactant | hydrochloric acid | 4N, 30 ml | Cl | ClH
product | (10 RS)-10-amino-10-(3-phenylpropyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 130 mg | Cl.NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCC3=CC=CC=C3 | InChI=1S/C22H20N4O.ClH/c23-22(12-6-9-15-7-2-1-3-8-15)17-11-5-4-10-16(17)18-19(22)26-14-13-24-20(26)21(27)25-18;/h1-5,7-8,10-11,13-14H,6,9,12,23H2,(H,25,27);1H
